US08487109B2
6-(6-Hydroxy-hex-1-ynyl)-naphtalene-2-carbonitrile
This product was prepared from benzenesulfonic acid 6-cyano-naphthalen-2-yl ester and hex-5-yn-1-ol following the general procedure for the Sonogashira cross-coupling process described above. Chromatography eluent: heptane/EtOAc 6:4; yield (90 mg, 72%); 1H NMR δ (CDCl3): 8.2 (s, 1H), 7.93 (s, 1H), 7.88-7.76 (m, 2H), 7.65-7.52 (m, 2H), 3.73 (t, J=7.20 Hz, 2H), 2.50 (t, J=7.22 Hz, 2H), 1.87-1.68 (br m, 5H); LCMS m/z: 249.

reactant | benzenesulfonic acid 6-cyano-naphthalen-2-yl ester | C(#N)C=1C=C2C=CC(=CC2=CC1)OS(=O)(=O)C1=CC=CC=C1 | C17H11NO3S
reactant | hex-5-yn-1-ol | C(CCCC#C)O | C6H10O
solvent | heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 6-(6-Hydroxy-hex-1-ynyl)-naphtalene-2-carbonitrile | OCCCCC#CC=1C=C2C=CC(=CC2=CC1)C#N | C17H15NO
